US04851526
2-[(4-Pentylpiperazin-1-yl)carbonyl]cyclopropane-carboxylic acid
To 100 mL of ethanol is added 1-pentylpiperazine (15.6 g, 0.1 mol) and 11.2 g (0.1 mol) of 3-oxabicyclo[3.1.0]-hexane-2,4-dione. Reflux the reaction and monitor by thin-layer chromatography. Upon completion remove the solvent in vacuo to obtain the title compound.

reactant | 1-pentylpiperazine | 0.1 mol, 15.6 g | C(CCCC)N1CCNCC1 | C9H20N2
reactant | 3-oxabicyclo[3.1.0]-hexane-2,4-dione | 0.1 mol, 11.2 g | C12C(OC(C2C1)=O)=O | C5H4O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-[(4-Pentylpiperazin-1-yl)carbonyl]cyclopropane-carboxylic acid | C(CCCC)N1CCN(CC1)C(=O)C1C(C1)C(=O)O | C14H24N2O3
